US07091227B2
2-(3-Ethyl-5-methyl-2-oxo-1,3,5-triazinan-1-yl)-4,5,6,7-tetrahydro-1,3-benzothiazol-7-one
To a suspension of N-ethyl-N′-(7-oxo-4,5,6,7-tetrahydro-1,3-benzothiazol-2-yl)urea (10.0 g, 41.79 mmol) in EtOH/H2O (1/1, 300 mL) were added formaldehyde (37 wt % in H2O, 20.4 g, 417.87 mmol), methylamine (40 wt % in H2O, 10.8 mL, 125.37 mmol) and N-methylmorpholine (11.8 mL, 83.6 mmol). The suspension was heated to about 60° C. for about 5 hrs, then a solution had been formed. The reaction mixture was pumped down in vacuo to give 12.41 g (quantitative yield) pure product.

reactant | N-ethyl-N′-(7-oxo-4,5,6,7-tetrahydro-1,3-benzothiazol-2-yl)urea | 41.79 mmol, 10.0 g | C(C)NC(=O)NC=1SC2=C(N1)CCCC2=O | C10H13N3O2S
reactant | formaldehyde | 417.87 mmol, 20.4 g | C=O | CH2O
reactant | methylamine | 125.37 mmol, 10.8 mL | CN | CH5N
reactant | N-methylmorpholine | 83.6 mmol, 11.8 mL | CN1CCOCC1 | C5H11NO
solvent | EtOH H2O | 300 mL | CCO.O
product | 2-(3-Ethyl-5-methyl-2-oxo-1,3,5-triazinan-1-yl)-4,5,6,7-tetrahydro-1,3-benzothiazol-7-one | 12.41 g, quantitative yield | C(C)N1C(N(CN(C1)C)C=1SC2=C(N1)CCCC2=O)=O | C13H18N4O2S
